US04258059
1-Cyclohexyl-1-phenyl-hydrazine
N-Cyclohexyl-N-nitrosoaniline, prepared from N-cyclohexylaniline by the method described in Example 1 was subsequently reduced to the hydrazine by the lithium aluminum hydride method described in Example 4. 1-Cyclohexyl-1-phenyl hydrazine distilled at 120°-150° C./0.2 mm.

reactant | N-Cyclohexyl-N-nitrosoaniline | C1(CCCCC1)N(C1=CC=CC=C1)N=O | C12H16N2O
reactant | N-cyclohexylaniline | C1(CCCCC1)NC1=CC=CC=C1 | C12H17N
reactant | hydrazine | NN | H4N2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Cyclohexyl-1-phenyl-hydrazine | C1(CCCCC1)N(N)C1=CC=CC=C1 | C12H18N2
